US07163940B2
To a solution of 3-bromo-7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine (1.26 g, 3.9 mmol) in toluene (39 mL) was added successively racemic-BINAP (153 mg, 0.23 mmol), cesium carbonate (1.44 g, 3.9 mmol), cyclopentylamine (1.14 mL, 11.5 mmol), and palladium (II) acetate (35 mg, 0.15 mmol). The resultant mixture was heated at 95° C. for 2.5 hours at which time the reaction was judged complete by thin layer chromatography. The solution was cooled to room temperature and ether was added. The organic layer was washed with water and brine. The aqueous layer was extracted with ether and the combined organics dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (100:1 to 40:1 hexanes:ether) provided 3-bromo-N-cyclopentyl-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine (1.2 g, 83%) as a white crystalline solid upon standing. 1H NMR (CDCl3): δ 8.05 (dd, 2H), 7.22–7.14 (m, 3H), 6.87 (d, 1H), 5.95–5.92 (m, 2H), 4.00 (m, 1H). 2.13 (m, 2H), 1.84–1.67 (m, 6H); 19F NMR (CDCl3) δ −113.44; MS m/z 374 (M+1).

reactant | 3-bromo-7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine | 3.9 mmol, 1.26 g | BrC=1C(=NN2C1C=CC=C2Cl)C2=CC=C(C=C2)F | C13H7BrClFN2
reactant | cesium carbonate | 3.9 mmol, 1.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclopentylamine | 11.5 mmol, 1.14 mL | C1(CCCC1)N | C5H11N
reactant | ether | CCOCC | C4H10O
solvent | toluene | 39 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.15 mmol, 35 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.23 mmol, 153 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 3-bromo-N-cyclopentyl-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine | 1.2 g, 83% | BrC=1C(=NN2C1C=CC=C2NC2CCCC2)C2=CC=C(C=C2)F | C18H17BrFN3
